diode characterstics
.include Solar_Cell.txt
.include TL071.cir

x1 0 2 7 8 4 TL071
x2 0 5 9 10 6 TL071

x3 4 5 solar_cell IL_val = 0

vdc 1 0 dc 2
Vin 3 0 sin(0 1 1k 0 0 0)
R1 3 2 10k
R2 1 2 1k
Rf 2 4 1k
Rfb 5 6 10k
cfb 5 6 4.7n

Vccp1 7 0 dc 15
Vccn1 8 0 dc -15

vccp2 9 0 dc 15
vccn2 10 0 dc -15

.control
dc vdc 0 2 0.01 
run

let cfb = 4.7e-9 
let rfb =10k
let w = 6.28k
let cdut =  (v(6)*cfb*sqrt(1+1/(w*cfb*rfb)^2))/v(5,4)
plot cdut vs v(1)

*let A = 16e-4
*let C = cdut/A
plot (cdut*625)^(-2) vs v(5)-v(4)


.endc
